US08106190B2
Methyl 5-chloro-2-(cyclohexylamino)benzoate was dissolved in ethanol, a 1 M sodium hydroxide aqueous solution was added, followed by stirring at 70° C. By post-treating the reaction liquid, 5-chloro-2-(cyclohexylamino)benzoic acid was obtained.

reactant | Methyl 5-chloro-2-(cyclohexylamino)benzoate | ClC=1C=CC(=C(C(=O)OC)C1)NC1CCCCC1 | C14H18ClNO2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-chloro-2-(cyclohexylamino)benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)NC1CCCCC1 | C13H16ClNO2
